Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Demerol / Percocet / Vicodin / Cymbalta / Lisinopril / 
hydralazine-hydrochlorothiazid / Codeine / Darvon / Trazodone / 
Tramadol
 
Attending: ___.
 
Chief Complaint:
Angina
 
Major Surgical or Invasive Procedure:
___ Coronaty artery bypass graft x5 (Left internal mammary 
artery to Left anterior decending, Saphenous vein graft to DIAG, 
Saphenous vein graft to Obtuse Marginal 1, Saphenous vein graft 
to Posterior descending artery, Saphenous vein graft to Obtuse 
Marginal 2)
 
History of Present Illness:
___ year old female who this past ___ developed chest 
discomfort with exertion followed by nausea and emesis. An 
exercise mibi was performed on ___ which showed septal 
hypertrophy with inferior wall ischemia. An echocardiogram did 
not reveal any valvular disease. A cardiac catheterization was 
performed on ___ which revealed severe three vessel 
coronary artery disease. Given the severity of her disease, she 
has been referred for surgical revascularization.
 
Past Medical History:
Hypertension
Hyperlipidemia
Diabetes mellitus type ___
Fibromyalgia
Chronic back pain
Lumbar spinal stenosis
Right shoulder and hip bursitis
Shingles
Alopecia
Obesity
Depression
Cataract
Retinopathy
Neuropathy
Gastroesophageal reflux disease
s/p Surgery to L4, L5 and S1 for spinal stenosis
s/p Right rotator cuff repair
s/p Total abdominal hysterectomy c/b small bowel obstruction
s/p Ex-Lap, Lysis of Adhesions with Nephrectomy
 
Social History:
___
Family History:
No premature CAD
 
Physical Exam:
Pulse: 68 Resp: 18  O2 sat: 100%
B/P  Right: 145/71   Left: 152/83
Height: 65"    Weight: 195    BSA 1.98m2

General: WDWN female in no acute distress
Skin: Warm[x] Dry [x] intact [x] - well healed abd incisions
HEENT: NCAT[x] PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur - none
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema - none
Varicosities: None [x]
Neuro: Grossly intact

Pulses:
Femoral      Right: 2  Left: 2
DP           Right: 1  Left: 1
___           Right: 1  Left: 1
Radial       Right: 2  Left: 2

Carotid Bruit        Right: none   Left: none
 
Pertinent Results:
___ Echo: PRE-CPB: The left atrium is moderately dilated. 
No mass/thrombus is seen in the left atrium or left atrial 
appendage. The interatrial septum is aneurysmal. A patent 
foramen ovale is present. A left-to-right shunt across the 
interatrial septum is seen at rest. There is mild symmetric left 
ventricular hypertrophy. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. There is intimal thickening and 
focal calcifications in the descending thoracic aorta. No 
thoracic aortic dissection is seen. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Mild (1+) aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is focal 
posterior mitral annular calcification. Mild (1+) mitral 
regurgitation is seen.
POST-CPB: There is mild symmetric LVH with normal global 
systolic function, estimated EF = 55%. There is mild AI, mild 
MR, mild TR, unchanged from pre-op. There is now evidence by 
color Doppler of bi-directional flow through the PFO. There is 
no evidence of dissection. 

___ 01:48PM BLOOD WBC-11.9*# RBC-2.56*# Hgb-8.2*# 
Hct-23.8*# MCV-93 MCH-32.1* MCHC-34.4 RDW-13.6 Plt ___
___ 04:21AM BLOOD WBC-7.7 RBC-2.67* Hgb-8.6* Hct-24.2* 
MCV-91 MCH-32.1* MCHC-35.5* RDW-13.8 Plt ___
___ 01:48PM BLOOD ___ PTT-36.1* ___
___ 01:00AM BLOOD ___ PTT-30.7 ___
___ 03:17PM BLOOD UreaN-19 Creat-1.2* Na-140 K-4.2 Cl-115* 
HCO3-20* AnGap-9
___ 04:21AM BLOOD Glucose-82 UreaN-26* Creat-1.3* Na-135 
K-4.3 Cl-104 HCO3-25 AnGap-10
___ 03:00AM BLOOD Calcium-8.5 Phos-2.0*# Mg-2.3
___ 01:00AM BLOOD Calcium-8.6 Phos-3.8 Mg-2.4
 
Brief Hospital Course:
Mrs. ___ was a same day admit and underwent surgery with Dr. 
___ on ___. Following surgery she was transferred to the 
CVICU in stable condition for invasive monitoring. Within 24 
hours she was weaned from sedation, awoke neurologically intact 
and extubated. Gently diuresed toward her preop weight and beta 
blockade titrated. On post-op day three she was transferred to 
the floor to begin increasing her activity level. She was 
expereincing right anterior chest/breast pain which was managed 
with a lidoderm patch. She continued to make good progress and 
was cleared for discharge on post-op day five to ___ 
___ in ___ with the appropriate medications 
and follow-up appointments.
 
Medications on Admission:
1. quinine sulfate 324 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. isosorbide mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Toprol XL 25 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
7. glyburide-metformin ___ mg Tablet Sig: One (1) Tablet PO 
once a day.  
8. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
9. spironolactone 50 mg Tablet Sig: One (1) Tablet PO twice a  
day.  
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 1 months.  
2. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
6. metformin 500 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. glyburide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1)  Topical DAILY (Daily).  
10. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H 
(every 4 hours) as needed for fever/pain.  
11. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
12. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation.  
13. furosemide 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
14. potassium chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO Q12H (every 12 
hours).  
15. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for wheezing.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 5
Past medical history:
Hypertension
Hyperlipidemia
Diabetes mellitus type ___
Fibromyalgia
Chronic back pain
Lumbar spinal stenosis
Right shoulder and hip bursitis
Shingles
Alopecia
Obesity
Depression
Cataract
Retinopathy
Neuropathy
Gastroesophageal reflux disease
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. 
Edema 1+ lower extremities
 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___